US08809534B2
Methyl 7-(3-fluoro-4-(3-(2-fluoro-5-methylphenyl)ureido)phenoxy)thieno[3,2-b]pyridine-2-carboxylate (1.84 g, 3.92 mmol) was taken up in 100 mL THF followed by the dropwise addition of 1N sodium hydroxide (4.8 mL, 4.8 mmol). The solution was stirred at room temperature for 3 hours, at which time an additional 2.4 mL of 1N sodium hydroxide was added. The solution was stirred at room temperature for overnight and the resulting mixture was diluted with 75 mL of water and acidified using 1N HCl. The insoluble material was separated by filtration and the filter cake was suspended in ethyl acetate and stirred for several minutes before filtering. The filter cake was washed several times with ethyl acetate and dried under high vacuum to give 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid as an off white solid. Yield: 1.6 g (90%); MS [M+H]+456.1; 1HNMR (DMSO-d6) δ: 13.9 (bs, 1H), 9.2 (s, 1H), 9.0 (s, 1H), 8.6 (d, 1H), 8.3 (t, 1H), 8.1 (s, 1H), 8.0 (d, 1H), 7.5 (d, 1H), 7.2 (m, 2H), 6.8 (m, 2H), 2.1 (s, 3H) ppm.

reactant | Methyl 7-(3-fluoro-4-(3-(2-fluoro-5-methylphenyl)ureido)phenoxy)thieno[3,2-b]pyridine-2-carboxylate | 3.92 mmol, 1.84 g | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C23H17F2N3O4S
reactant | sodium hydroxide | 4.8 mmol, 1N, 4.8 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 2.4 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 75 mL | O | H2O
product | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C22H15F2N3O4S
